US05338532
Example II: Modification of polyamidoamine dendrimers by reaction with epoxyoctane
To a solution of 0.50 g of sixth generation PAMAM in 5 ml of methanol was added 0.56 g of epoxyoctane. After 6 days at room temperature, the solvent was evaporated in vacuo to give 0.80 g of colorless oil. The material was soluble in chloroform, toluene or methanol, but not soluble in water. The 13C-NMR spectrum was in accord with a dendrimer with C-8 alkyl groups attached to its terminal amines.

reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | methanol | CO | CH4O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | epoxyoctane | O1CC1CCCCCC | C8H16O
